US04734419
To a solution of 7-chloro-2H-3,1-benzoxazine-2,4(1H)-dione (330 g) in N,N-dimethylformamide (3.3 l) was added sodium hydride (60% in mineral oil, 86.8 g) below 20° C. and the mixture was stirred at 5° C. for 30 minutes. To this solution was added ethyl bromoacetate (222 ml) at 10° C. over a 30-minute period and the resulting mixture was stirred at room temperature for 1.5 hours. To this reaction mixture was added 28% aqueous ammonia (696 ml) below 10° C. and the resulting mixture was stirred at 5° C. for 20 minutes. The mixture was poured into 1N hydrochloric acid (16.5 l). The precipitates were collected by filtration, and washed in turn with water (3 times) and diethyl ether to give ethyl N-(2-carbamoyl-5-chlorophenyl)aminoacetate (360 g).

reactant | 7-chloro-2H-3,1-benzoxazine-2,4(1H)-dione | 330 g | ClC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4ClNO3
reactant | sodium hydride | 86.8 g | [H-].[Na+]
reactant | ethyl bromoacetate | 222 ml | BrCC(=O)OCC | C4H7BrO2
reactant | ammonia | 696 ml | N | H3N
reactant | hydrochloric acid | 1N, 16.5 l | Cl | ClH
solvent | N,N-dimethylformamide | 3.3 l | CN(C=O)C | C3H7NO
product | ethyl N-(2-carbamoyl-5-chlorophenyl)aminoacetate | 360 g | C(N)(=O)C1=C(C=C(C=C1)Cl)NCC(=O)OCC | C11H13ClN2O3
